US04572913
3-benzylideneamino-1-(3-t-butylphenyl)-2-pyrazoline
3-Amino-1-(3-t-butylphenyl)-2-pyrazoline (500 mg) was reacted with benzaldehyde (500 mg) in boiling methanol (5 ml) in the presence of glacial acetic acid (1 drop). After some 4 hours, the mixture was cooled and 3-benzylideneamino-1-(3-t-butylphenyl)-2-pyrazoline separated in crystals m.p. 140°-141°, (yield 500 mg).

reactant | 3-Amino-1-(3-t-butylphenyl)-2-pyrazoline | 500 mg | NC1=NN(CC1)C1=CC(=CC=C1)C(C)(C)C | C13H19N3
reactant | benzaldehyde | 500 mg | C(C1=CC=CC=C1)=O | C7H6O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
product | 3-benzylideneamino-1-(3-t-butylphenyl)-2-pyrazoline | C(C1=CC=CC=C1)=NC1=NN(CC1)C1=CC(=CC=C1)C(C)(C)C | C20H23N3
